US07018988B2
(2S,4EZ)-4-(tert-butoxyimino)-N-cyclopropyl-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and cyclopropylamine the title compound was obtained in 75% purity by LC/MS. MS(ESI+): m/z=432.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC(C)(C)C)C(=O)O | C14H24N2O5
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2S,4EZ)-4-(tert-butoxyimino)-N-cyclopropyl-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide | C(C)(C)(C)ON=C1C[C@H](N(C1)C(=O)C=1C(OC(=CC1)CCCCC)=O)C(=O)NC1CC1 | C23H33N3O5
